US08053438B2
To a solution of 4-hydroxybenzoic acid ethyl ester (55.21 g, 332.3 mmol) and 2,3-dichloropyrazine (49.50 g, 332.3 mmol) in DMSO (300 mL) was added cesium carbonate (129.9 g, 398.7 mmol). The mixture was heated to 70° C. until the starting material was consumed. The mixture was cooled to RT, diluted with water and DCM, the layers were separated and the aqueous layer was extracted with DCM (2×). The combined organics were washed with brine, dried over Na2SO4, filtered and concentrated. The crude material was washed with copious amounts of methanol and dried to give ethyl 4-(3-chloropyrazin-2-yloxy)benzoate.

reactant | 4-hydroxybenzoic acid ethyl ester | 332.3 mmol, 55.21 g | C(C)OC(C1=CC=C(C=C1)O)=O | C9H10O3
reactant | 2,3-dichloropyrazine | 332.3 mmol, 49.50 g | ClC1=NC=CN=C1Cl | C4H2Cl2N2
reactant | cesium carbonate | 398.7 mmol, 129.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMSO | 300 mL | CS(=O)C | C2H6OS
product | ethyl 4-(3-chloropyrazin-2-yloxy)benzoate | ClC=1C(=NC=CN1)OC1=CC=C(C(=O)OCC)C=C1 | C13H11ClN2O3
